US04170464
Preparation of 1,2-Dimethyl-3,5-diphenylpyrazolium triiodide
To a solution of 2.0 grams (0.0053 moles) of 1,2-dimethyl-3,5-diphenylpyrazolium iodide in 100 ml. of aqueous ethanol (1:1) was added 1.34 grams (0.0053 moles) of iodine. The reaction mixture was allowed to sit with the resultant formation of a red precipitate.

reactant | 1,2-dimethyl-3,5-diphenylpyrazolium iodide | 0.0053 moles, 2.0 grams | [I-].C[N+]=1N(C(=CC1C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | iodine | 0.0053 moles, 1.34 grams | II | I2
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dimethyl-3,5-diphenylpyrazolium triiodide | [I-].[I-].[I-].C[N+]=1N(C(=CC1C1=CC=CC=C1)C1=CC=CC=C1)C.C[N+]=1N(C(=CC1C1=CC=CC=C1)C1=CC=CC=C1)C.C[N+]=1N(C(=CC1C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/3C17H17N2.3HI/c3*1-18-16(14-9-5-3-6-10-14)13-17(19(18)2)15-11-7-4-8-12-15;;;/h3*3-13H,1-2H3;3*1H/q3*+1;;;/p-3
